* Schematics Netlist *



R_R1         0 $N_0001  1k  
C_C1         $N_0002 $N_0001  10000m  
V_V2         $N_0002 0  
+PULSE -10 10 8m 0m 0m 8m 16m
D_D1         $N_0003 $N_0001 D1N4148 
V_V3         $N_0003 0 5v
