* Schematics Netlist *



V_V3         $N_0001 0 6v
D_D2         $N_0002 $N_0001 D1N4002 
R_R1         0 $N_0002  200k  
V_V2         $N_0003 0  
+PULSE 5 -15 0.0025s 0m 0m 0.0025s 0.005s
C_C1         $N_0003 $N_0002  .05u  
